US05981533
2-Cyano-3-(4-methoxy-benzylamino)-3-methylmercapto-acrylonitrile
A mixture of 17.03 g (0.1 mol) of 3,3-bis-methylmercapto-2-cyano-acrylonitrile, 12.98 ml (0.1 mol) of 4-methoxy-benzylamine and 60 ml of ethanol is heated under reflux for 2 hours. Approx. 90 ml of hexane are then added dropwise to the hot solution which is then allowed to cool to RT. The title compound which has precipitated in the form of colorless crystals is filtered off, washed with diethyl ether and dried under a HV; m.p. 100-101° C.

reactant | 3,3-bis-methylmercapto-2-cyano-acrylonitrile | 0.1 mol, 17.03 g | CSC(=C(C#N)C#N)SC | C6H6N2S2
reactant | 4-methoxy-benzylamine | 0.1 mol, 12.98 ml | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | ethanol | 60 ml | C(C)O | C2H6O
solvent | hexane | 90 ml | CCCCCC | C6H14
product | 2-Cyano-3-(4-methoxy-benzylamino)-3-methylmercapto-acrylonitrile | C(#N)C(C#N)=C(SC)NCC1=CC=C(C=C1)OC | C13H13N3OS
